US05278161
In a manner analogous to that described in Example 1, by condensing 2-hydrazino-3-propyl-5-(3-pyridyl)pyrazine with diethyl (imidazol-4-yl-methyl)malonate (J.Chem.Soc. 99, (1911) 1390) there is obtained ethyl rac-α-(imidazol-4-ylmethyl)-8-propyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate, MS: 405 (M)+, which is converted into the above acid by saponification analogously to Example 1.

reactant | 2-hydrazino-3-propyl-5-(3-pyridyl)pyrazine | N(N)C1=NC=C(N=C1CCC)C=1C=NC=CC1 | C12H15N5
reactant | diethyl (imidazol-4-yl-methyl)malonate | N1C=NC(=C1)CC(C(=O)OCC)C(=O)OCC | C11H16N2O4
product | ethyl rac-α-(imidazol-4-ylmethyl)-8-propyl-6-(3-pyridyl)-s-triazolo[4,3-a]pyrazine-3-acetate | N1C=NC(=C1)CC(C(=O)OCC)C1=NN=C2N1C=C(N=C2CCC)C=2C=NC=CC2 | C21H23N7O2
